US06492393B1
To a solution of 4-tert-butyl toluene (5 g, 33.7 mmol) in acetonitrile (150 mL) at 0° C. was added nitronium tetrafluoroborate (5.83 g, 40.5 mmol). After 30 min at room temperature, the reaction was diluted with water (50 mL) and extracted with ethyl acetate (3×30 mL). The combined organic extracts were washed with brine and dried (MgSO4). Removal of the volatiles in vacuo left a residue which was purified by flash chromatography using 10% methylene chloride in petroleum ether as eluent. Concentration in vacuo of the product rich fractions provided 3.8 g of 4-tert-butyl-2-nitrotoluene.

reactant | 4-tert-butyl toluene | 33.7 mmol, 5 g | C(C)(C)(C)C1=CC=C(C=C1)C | C11H16
reactant | nitronium tetrafluoroborate | 40.5 mmol, 5.83 g | F[B-](F)(F)F.O=[N+]=O
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | water | 50 mL | O | H2O
product | 4-tert-butyl-2-nitrotoluene | 3.8 g | C(C)(C)(C)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C11H15NO2
